US09388195B2
A) Production of 1-(1-tert-butyl-5-methyl-1H-pyrazol-4-yl)ethanone
A mixture of pentane-2,4-dione (5.01 g) and 1,1-dimethoxy-N,N-dimethylmethanamine (6.26 g) was stirred at 80° C. for 1 hr. Tetrahydrofuran (10 mL) was added to the reaction mixture, tert-butylhydrazine hydrochloride was added by small portions under ice-cooling, and the mixture was stirred at 60° C. for 30 min. The reaction mixture was allowed to cool to room temperature, ethyl acetate (100 mL) and water (100 mL) were added, and the separated aqueous layer was extracted with ethyl acetate (50 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (7.47 g) as a colorless oil.

reactant | pentane-2,4-dione | 5.01 g | CC(CC(C)=O)=O | C5H8O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 6.26 g | COC(N(C)C)OC | C5H13NO2
reactant | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | tert-butylhydrazine hydrochloride | Cl.C(C)(C)(C)NN
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(1-tert-butyl-5-methyl-1H-pyrazol-4-yl)ethanone | 7.47 g | C(C)(C)(C)N1N=CC(=C1C)C(C)=O | C10H16N2O
